US08685991B2
Part A. Preparation of 1-methoxy-4-nitro-2-(perfluoroethyl)benzene
To a 250 mL round-bottom flask was added 2-bromo-1-methoxy-4-nitrobenzene (3.5 g, 15.08 mmol), copper(I) iodide (5.75 g, 30.2 mmol), and sodium 2,2,3,3,3-pentafluoropropanoate (5.25 g, 28.2 mmol) in DMF (75 ml) and toluene (25 ml) to give a tan suspension. The mixture was heated at 150° C. and toluene was removed by a Dean-Stark trap. The mixture was heated at 155° C. for 6 h under nitrogen, cooled and poured into 100 mL of water and 100 mL of ether, filtered through a 1-inch plug of Celite and the plug was rinsed with ether. The filtrate layers were separated. The organic layer was washed with brine, dried (Na2SO4) filtered and concentrated. The dark oil was flash chromatographed on an Isco 40 g silica cartridge eluting with 4:1 hexane/EtOAc to give a yellow oil that was a (3:1) mix of desired material and starting material (1.5 g, 37%).

reactant | 2-bromo-1-methoxy-4-nitrobenzene | 15.08 mmol, 3.5 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | sodium 2,2,3,3,3-pentafluoropropanoate | 28.2 mmol, 5.25 g | FC(C(=O)[O-])(C(F)(F)F)F.[Na+]
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) iodide | 30.2 mmol, 5.75 g | [Cu]I
product | 1-methoxy-4-nitro-2-(perfluoroethyl)benzene | COC1=C(C=C(C=C1)[N+](=O)[O-])C(C(F)(F)F)(F)F | C9H6F5NO3
